US08242055B2
2 g (10.1 mmol) of 2,4-dichlorphenylacetic acid were initially charged in 50 ml of dichloromethane, 1.1 ml (1.67 eq) of oxalyl chloride and a drop of DMF were added and the mixture was heated at the boil under reflux until the evolution of gas had ceased. The mixture was concentrated under reduced pressure, and two more times, dichloromethane was added and the mixture was concentrated again, and the residue was then taken up in 5 ml of dichloromethane. The solution obtained in this manner was, at 0° C., added dropwise over a period of 20 min to a solution of 1.4 g (1.1 eq) of methyl 2-(methylhydrazono)propionate and 2.9 ml of triethylamine (2.1 eq) in 20 ml of dichloromethane. The mixture was then stirred at room temperature overnight, and 30 ml of water were added. The aqueous phase was removed and the organic phase was concentrated. The residue obtained was purified by column chromatography (silica gel, gradient n-heptane/ethyl acetate). This gave a total of 0.7 g of methyl 2-{[2-(2,4-dichlorophenyl)acetyl]methyl-hydrazono}propionate.

reactant | 2,4-dichlorphenylacetic acid | 10.1 mmol, 2 g | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | oxalyl chloride | 1.1 ml, 1.67 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2-(methylhydrazono)propionate | 1.4 g, 1.1 eq | CNN=C(C(=O)OC)C | C5H10N2O2
reactant | triethylamine | 2.9 ml, 2.1 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-{[2-(2,4-dichlorophenyl)acetyl]methyl-hydrazono}propionate | 0.7 g | ClC1=C(C=CC(=C1)Cl)CC(=O)CNN=C(C(=O)OC)C | C13H14Cl2N2O3
